US03933886
1-Amino-3-cyanoacetylamino-4-nitrobenzene
9.04 gm (0.059 mol) of 1,3-diamino-4-nitrobenzene, 5.69 gm (0.054 mol) of cyanoacetyl chloride were boiled in 100 ml of benzene for 4 hours at reflux. The precipitation of the reaction product occurred during the reaction and was completed by concentration of the reaction solution. The separated precipitate was purified by recrystallization from acetic acid. On the basis of the analysis data and IR- and NRM-measurements the product has the formula: 1-amino-3-cyanoacetylamino-4-nitrobenzene and a melting point of 218°-220°C.

reactant | 1,3-diamino-4-nitrobenzene | 0.059 mol, 9.04 gm | NC1=CC(=C(C=C1)[N+](=O)[O-])N | C6H7N3O2
reactant | cyanoacetyl chloride | 0.054 mol, 5.69 gm | C(#N)CC(=O)Cl | C3H2ClNO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-Amino-3-cyanoacetylamino-4-nitrobenzene | NC1=CC(=C(C=C1)[N+](=O)[O-])NC(CC#N)=O | C9H8N4O3
